US04179509
6-(2-Carboxy 4-methylanilino)nicotinic acid
A solution of 10.0 g (39.4 mmol) of 2-methyl-11-oxo-11H-pyrido[2,1-b]quinazoline-8-carboxylic acid and 78.8 ml of 1 N. NaOH in 500 ml of H2O was heated at reflux for 16 hours. The reaction mixture was evaporated to give a white powder which was triturated with hot EtOH giving the analytical sample upon filtration and drying; yield, 8.25 g (66.5%) mp 348.5° dec.

reactant | 2-methyl-11-oxo-11H-pyrido[2,1-b]quinazoline-8-carboxylic acid | 39.4 mmol, 10.0 g | CC=1C=C2C(N3C(=NC2=CC1)C=CC(=C3)C(=O)O)=O | C14H10N2O3
reactant | NaOH | [OH-].[Na+]
solvent | H2O | 500 ml | O | H2O
product | 6-(2-Carboxy 4-methylanilino)nicotinic acid | C(=O)(O)C1=C(NC2=NC=C(C(=O)O)C=C2)C=CC(=C1)C | C14H12N2O4
